US06495541B1
In a manner similar to that described for 2-[4-(2-diethylamino-ethyl)-phenyl]-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one (Example YY), the tricyclic bromide (300 mg, 1.13 mmol) and N-(2-bromo-4-fluoro-phenyl)-acetamide (276 mg, 1.19 mmol) were coupled to yield N-[4-fluoro-2-(6-oxo-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-2-yl)-phenyl]-acetamide, 83 mg (22%) as a beige solid: m.p. 260-261° C. (dec); 1H NMR (300 MHz, d6-DMSO) δ1.97 (s, 3H), 2.66 (m, 2H), 3.33 (m, 2H), 7.25 (m, 3H), 7.56 (dd, J=7.5, 0.6 Hz, 1H), 7.70 (dd, J=7.2, 0.6 Hz, 1H), 7.76 (m, 1H), 8.04 (br t, 1H), 11.50 (br s, 1 H). MS (FAB, MH+): 338. Anal. (C16H19FN3O2.0.16 H2O) C, H, N.

reactant | 2-[4-(2-diethylamino-ethyl)-phenyl]-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one | C(C)N(CCC1=CC=C(C=C1)C=1NC=2C=CC=C3C2C1CCNC3=O)CC | C23H27N3O
reactant | N-(2-bromo-4-fluoro-phenyl)-acetamide | 1.19 mmol, 276 mg | BrC1=C(C=CC(=C1)F)NC(C)=O | C8H7BrFNO
product | N-[4-fluoro-2-(6-oxo-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-2-yl)-phenyl]-acetamide | FC1=CC(=C(C=C1)NC(C)=O)C=1NC=2C=CC=C3C2C1CCNC3=O | C19H16FN3O2
